US06096743
To a mixture of 4.84 g (29 mmol) of glycine tert-butyl ester hydrochloride, 20 ml of THF, 4.1 ml of triethylamine and 3 ml of DMF, a mixture of 6.57 g of 2,4-difluoro-5-trifluoromethylnitrobenzene and 5 ml of THF was added dropwise under stirring. After stirring for 3 hours, 50 ml of ethyl acetate was added to the reaction mixture, followed by filtration. The filtrate was concentrated under reduced pressure. The concentrate was extracted by adding ethyl acetate and water. The organic layer was washed successively with water, a 1% aqueous solution of sodium bicarbonate and brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column (eluting solvent: hexane:ethyl acetate=10:1.5) to give 9.54 g (98%) of N-(5-fluoro-2-nitro-4-trifluoromethylphenyl)glycine tert-butyl ester.

reactant | glycine tert-butyl ester hydrochloride | 29 mmol, 4.84 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | triethylamine | 4.1 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluoro-5-trifluoromethylnitrobenzene | 6.57 g | FC1=C(C=C(C(=C1)F)C(F)(F)F)[N+](=O)[O-] | C7H2F5NO2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(5-fluoro-2-nitro-4-trifluoromethylphenyl)glycine tert-butyl ester | 9.54 g, 98% | C(C)(C)(C)OC(CNC1=C(C=C(C(=C1)F)C(F)(F)F)[N+](=O)[O-])=O | C13H14F4N2O4
